US06992067B2
1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-[4-(8-iodooctyloxy)-phenyl]azetidin-2-one (61)
150 mg of 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)azetidin-2-one are dissolved in 10 ml of absolute dimethylformamide. 120 mg of powdered potassium carbonate and 0.44 ml of diiodooctane are then added. The reaction solution is stirred at room temperature overnight. After concentration using a rotary evaporator and oil pump vacuum at 40° C., the residue is purified using an SiO2 cartridge (n-heptane; n-heptane/ethylacetate 4:1). The product is obtained as an oil. C32H36F2INO3 (647) MS (ESI): M+−18

reactant | 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)azetidin-2-one | 150 mg | FC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)O)CCC(O)C1=CC=C(C=C1)F)=O | C24H21F2NO3
reactant | potassium carbonate | 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diiodooctane | 0.44 ml | IC(CCCCCCC)I | C8H16I2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-[4-(8-iodooctyloxy)-phenyl]azetidin-2-one | FC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)OCCCCCCCCI)CCC(O)C1=CC=C(C=C1)F)=O | C32H36F2INO3
